US04319913
A mixture of 1-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (1.5 g, 0.0065 mol) and methylisocyanate (1.92 g, 0.0337 mol) in 15 ml. of acetonitrile was heated with constant stirring at reflux for 16 hours. The mixture was allowed to air cool to 26° C. and was then cooled to 0° C. in an ice bath. The mixture was filtered and the precipitate washed with anhydrous ether to yield 1-phenyl-2-methylaminocarbonyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (1.6 g, 86% yield) as a white solid having a melting point of 219°-221° C. and the following analysis:

reactant | 1-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.0065 mol, 1.5 g | C1(=CC=CC=C1)P1(NCC2=C1C=CC=C2)=O | C13H12NOP
reactant | methylisocyanate | 0.0337 mol, 1.92 g | CN=C=O | C2H3NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-phenyl-2-methylaminocarbonyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 1.6 g, 86% yield | C1(=CC=CC=C1)P1(N(CC2=C1C=CC=C2)C(=O)NC)=O | C15H15N2O2P
